US03952031
3α-Acetoxy-2β-ethoxy-5α-pregnane-11,20-dione
2β-Ethoxy-3α-hydroxy-5α-pregnane-11,20-dione (500 mg.) in dry methylene chloride (5 ml.) at 0° was treated with pyridine (2.0 ml.) and acetic anhydride (2.0 ml.). After 24 hours, methylene chloride was added, and the solution was washed with dilute hydrochloric acid and with water. It was then dried over sodium sulphate and evaporated to an oil. The title compound (350 mg.) was obtained as a colourless foam, [α]D + 132°.

reactant | 2β-Ethoxy-3α-hydroxy-5α-pregnane-11,20-dione | 500 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C23H36O4
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3α-Acetoxy-2β-ethoxy-5α-pregnane-11,20-dione | 350 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OCC)C)=O)C | C25H38O5
